US07655670B2
1-(methylcarbonyloxy-methyl)-5-(2-decahydronaphthyl)-spiro[indoline-3,4′-piperidin]-2-one (Compound #15)
1-(Methoxycarbonylmethyl)-spiro[indoline-3,4′-piperidin]-2-one (0.013 g, 0.049 mmol) was dissolved in dry THF (1.0 mL) and dry 1,2-dichloroethane (0.3 mL). Octahydro-naphthalen-2-one (0.008 g, 0.054 mmol), glacial acetic acid (0.003 g, 0.049 mmol), MP-cyanoborohydride (Polymer support from Argonaut) (0.043 g, 0.099 mmol) were added and the reaction mixture was stirred at room temperature for 18 hrs. The mixture was then filtered, the resin washed with dichloromethane and the solvent evaporated in vacuo to yield the crude compound. The crude compound was purified via flash chromatography (5% methanol/dichloromethane) to yield the title compound as a foam.

reactant | 1-(Methoxycarbonylmethyl)-spiro[indoline-3,4′-piperidin]-2-one | 0.049 mmol, 0.013 g | COC(=O)CN1C(C2(CCNCC2)C2=CC=CC=C12)=O | C15H18N2O3
reactant | Octahydro-naphthalen-2-one | 0.054 mmol, 0.008 g | C1C(CCC2CCCCC12)=O | C10H16O
reactant | acetic acid | 0.049 mmol, 0.003 g | C(C)(=O)O | C2H4O2
reactant | cyanoborohydride | 0.099 mmol, 0.043 g | C(#N)[BH3-]
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | 1,2-dichloroethane | 0.3 mL | ClCCCl | C2H4Cl2
product | 1-(methylcarbonyloxy-methyl)-5-(2-decahydronaphthyl)-spiro[indoline-3,4′-piperidin]-2-one | CC(=O)OCN1C(C2(CCNCC2)C2=CC(=CC=C12)C1CC2CCCCC2CC1)=O | C25H34N2O3
